US08071651B2
c) Methyl (cis)-5-hydroxytetrahydropyran-3-carboxylate
A solution of diazomethane in diethyl ether (approx. 0.4 M) is added in excess to a solution of 23 mmol of (cis)-5-hydroxytetrahydropyran-3-carboxylic acid in 300 ml of methanol at 0° C. The mixture is stirred at 0° C. for 2 hours and then quenched with magnesium sulphate, filtered and evaporated. The crude title compound is identified by means of the Rf.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | (cis)-5-hydroxytetrahydropyran-3-carboxylic acid | 23 mmol | O[C@@H]1C[C@@H](COC1)C(=O)O | C6H10O4
solvent | diethyl ether | approx. 0.4 M | C(C)OCC | C4H10O
solvent | methanol | 300 ml | CO | CH4O
product | Methyl (cis)-5-hydroxytetrahydropyran-3-carboxylate | O[C@@H]1C[C@@H](COC1)C(=O)OC | C7H12O4
